US08334301B2
1-(2-chlorophenyl)-5-[(5-methylpyridin-2-yl)thio]-1H-pyrazole-3-carbaldehyde
To a solution of ethyl 1-(2-chlorophenyl)-5-[(5-methylpyridin-2-yl)thio]-1H-pyrazole-3-carboxylate (642 mg) in tetrahydrofuran (10 mL) was added a 1.5 mol/L solution (3.4 mL) of diisobutylaluminum hydride in toluene at −78° C., and the mixture was stirred at 0° C. for 1 hr. 1 mol/L Aqueous sodium hydroxide solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with water, saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. To a solution of the residue in toluene (8 mL) was added manganese dioxide (1.38 g) and the mixture was stirred at 80° C. for 3 hr. The reaction mixture was cooled to room temperature and filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate=3:1) to give the title compound as a yellow oil (yield 426 mg, yield 80%).

reactant | ethyl 1-(2-chlorophenyl)-5-[(5-methylpyridin-2-yl)thio]-1H-pyrazole-3-carboxylate | 642 mg | ClC1=C(C=CC=C1)N1N=C(C=C1SC1=NC=C(C=C1)C)C(=O)OCC | C18H16ClN3O2S
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | sodium hydroxide | 1 mol/L | [OH-].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(2-chlorophenyl)-5-[(5-methylpyridin-2-yl)thio]-1H-pyrazole-3-carbaldehyde | yield 426 mg, yield 80% | ClC1=C(C=CC=C1)N1N=C(C=C1SC1=NC=C(C=C1)C)C=O | C16H12ClN3OS
